US07981903B2
The remaining reaction mixture from the preparation of 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide was diluted with a solution of methylamine (2M in THF 15 mL, 30 mmol). The resulting mixture maintained at rt for 2 days and was diluted with EtOAc (200 mL), washed with a saturated NaHCO3 solution (200 mL) and a saturated NaCl solution (125 mL). The organic layer was concentrated onto Celite and purified by silica gel chromatography using 1-10% MeOH (containing 0.2% NH3)/CH2Cl2, followed by trituration using a mixture of CH2Cl2 and Et2O. The crude product was dissolved in dioxane (13 mL) and was treated with a 1M aqueous KOH solution (1.121 mL, 1.121 mmol). The resulting mixture was heated at 90° C. for 6 h and was allowed to cool to rt and diluted with EtOAc (100 mL), washed with a saturated NaHCO3 solution (50 mL) and a saturated NaCl solution (50 mL). The organic layer was concentrated onto Celite and purified by silica gel chromatography using 1-10% MeOH (containing 0.2% NH3)/CH2Cl2 to obtain 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-N-methylbenzamide as a beige solid (70 mg). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.26 (s, 6H), 2.83 (d, J=4.40 Hz, 3H), 3.04-3.28 (m, 4H), 3.78 (s, 3H), 4.18 (t, J=8.33 Hz, 2H), 6.23-6.38 (m, 1H), 6.87-7.07 (m, 3H), 7.60 Hz, 1H), 7.60 (s, 1H), 7.72 (d, 7.33 Hz, 1H), 8.64 (s, 1H), 8.67-8.81 (m, 1H), 8.90 (d, J=8.24 Hz, 1H), 11.26 (s, 1H), 11.73 (s, 1H); ESIMS (M+H)+=515.33.

reactant | 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)N)C=CC=C2)OC)C | C26H28N8O3
reactant | methylamine | 30 mmol, 2M, 15 mL | CN | CH5N
reactant | KOH | 1.121 mmol, 1M, 1.121 mL | [OH-].[K+]
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-N-methylbenzamide | 70 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)NC)C=CC=C2)OC)C | C27H30N8O3
